US04902700
Synthesis of 2-[trans-3-(cis-2-carboxycyclohexanoyl)aminostyryl]benzothiazole N-methyl-D-glucamine salt (compound No. 414)
Into a solvent mixture of 6 ml of methanol and 1 ml of water were added 96 mg of N-methyl-D-glucamine and 200 mg of 2-[trans-3-(cis-2-carboxycyclohexanoyl)aminostyryl]benzothiazole and the mixture was stirred at room temperature for 30 minutes. After evaporation of the solvent under reduced pressure, the crude crystals formed were recrystallized from ethanol-ethyl ether to obtain 215 mg (yield 73%) of the title compound.

reactant | methanol | 6 ml | CO | CH4O
reactant | N-methyl-D-glucamine | 96 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | 2-[trans-3-(cis-2-carboxycyclohexanoyl)aminostyryl]benzothiazole | 200 mg | C(=O)(O)[C@@H]1[C@@H](CCCC1)C(=O)NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C23H22N2O3S
solvent | water | 1 ml | O | H2O
product | 2-[trans-3-(cis-2-carboxycyclohexanoyl)aminostyryl]benzothiazole N-methyl-D-glucamine salt | 215 mg, yield 73% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(=O)(O)[C@@H]1[C@@H](CCCC1)C(=O)NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | InChI=1S/C23H22N2O3S.C7H17NO5/c26-22(17-8-1-2-9-18(17)23(27)28)24-16-7-5-6-15(14-16)12-13-21-25-19-10-3-4-11-20(19)29-21;1-8-2-4(10)6(12)7(13)5(11)3-9/h3-7,10-14,17-18H,1-2,8-9H2,(H,24,26)(H,27,28);4-13H,2-3H2,1H3/b13-12+;/t17-,18+;4-,5+,6+,7+/m10/s1
